### PR TITLE
[Merged by Bors] - feat: define `Path.segment`

### PR DESCRIPTION
**Pull request by urkud**
Extract the definition of `Path.segment` from `JoinedIn.of_segment_subset`
and prove basic properties of this definition.

---

I added some unnecessary parts to this PR. I'll cherry-pick them to new PRs before marking this one as ready for review.

- [x] TODO: fix copyright header in the new file; see whose code I moved there.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/Convex/PathSegment.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+
+open Set
+open scoped Convex
+
+variable {E : Type*} [AddCommGroup E] [Module ℝ E]
+  [TopologicalSpace E] [ContinuousAdd E] [ContinuousSMul ℝ E]
+
+namespace Path
+
+/-- The path from `a` to `b` going along the straight segment. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Convex/PathSegment.lean]:
```suggestion
/-- The path from `a` to `b` going along a straight line segment -/

File: Mathlib/Analysis/Convex/PathSegment.lean [hunk 2]
```diff
@@ -0,0 +1,90 @@
...
+@[simps]
+protected def segment (a b : E) : Path a b where
+  toFun t := AffineMap.lineMap a b (t : ℝ)
+  source' := by simp
+  target' := by simp
+
+@[simp]
+theorem range_segment (a b : E) : Set.range (Path.segment a b) = [a -[ℝ] b] := by
+  simp only [segment_eq_image_lineMap, image_eq_range, ← segment_apply]
```
Comment (grunweg) [inline Mathlib/Analysis/Convex/PathSegment.lean]: Is the simp much slower if you don't squeeze it? (If not, please unsqueeze - otherwise, please add a comment. Thanks!)

File: Mathlib/Analysis/Convex/PathSegment.lean [hunk 3]
```diff
@@ -0,0 +1,90 @@
...
+
+@[simp]
+theorem segment_same (a : E) : Path.segment a a = .refl a := by ext; simp
```
Comment (grunweg) [inline Mathlib/Analysis/Convex/PathSegment.lean]: I'd like another reviewer to comment on this name --- I'm not sure (i.e., I just don't know) if that's our mathlib convention.

**Review by grunweg — COMMENTED** [review]
Thanks! I just have a few nits.
maintainer delegate

**Comment by jcommelin** [comment]
Please move the import up as suggested.

bors d+

File: Mathlib/Analysis/Convex/PathSegment.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Analysis/Convex/PathSegment.lean]: None of the lemmas from the default `simp` set apply here, so I see no reason to drop `simp`. Changed  to `rw` + `simp only` (not sure why).

File: Mathlib/Analysis/Convex/PathSegment.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Analysis/Convex/PathSegment.lean]: I copied from https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Convex/Segment.html#segment_same. Probably, this means that this one should be `protected`.
